US07863347B2
In a 500 mL recovery flask, 44.9 g of 2,7-di(1-adamantyl)-fluorenone obtained in the same manner as in Synthesis example 7 (100 mmol), 36.6 g of benzoic acid (300 mmol), 203 mL of Eaton's reagent (7.7 wt % methanesulfonic acid solution of diphosphorus pentoxide) and a stirrer were charged and agitated at 150° C. for 12 hours under a nitrogen atmosphere. After reaction solution reached room temperature, mL of ion-exchange water was added slowly. An aqueous layer was separated and removed therefrom. Then, solvent was removed from the reaction solution under reduced pressure. Solid thus obtained was purified by column chromatography, thus obtaining 54.7 g of 2,7-di(1-adamantyl)-fluorene-9,9-bisbenzoic acid (81 mmol; yield: 81%).

reactant | 2,7-di(1-adamantyl)-fluorenone | 44.9 g | C12(CC3CC(CC(C1)C3)C2)C=2C(C3=CC1=CC(=CC=C1C3=CC2)C23CC1CC(CC(C2)C1)C3)=O | C33H36O
reactant | benzoic acid | 300 mmol, 36.6 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | Eaton's reagent | 203 mL | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
solvent | water | O | H2O
product | 2,7-di(1-adamantyl)-fluorene-9,9-bisbenzoic acid | 81 mmol, 54.7 g, yield: 81% | C12(CC3CC(CC(C1)C3)C2)C2=CC=3C(C1=CC(=CC=C1C3C=C2)C23CC1CC(CC(C2)C1)C3)(C3=CC=CC=C3C(=O)O)C3=CC=CC=C3C(=O)O | C47H46O4
